US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-7-chloro-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(4-chloro-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.695 g) was coupled to 4-(2-oxoperhydropyrimidine-1-yl)piperidine (0.31 g) by a method similar to that described in Example 8. The reaction product was not purified by chromatography but converted to the hydrochloride salt to afford the title compound (0.220 g); mp 175°-185° C.; MS: m/z=549(M+1); NMR(CD3OD): 1.92 (m,4), 2.13 (m,2), 2.54 (m, 2), 3.29 (s,3), 3.66 (m,3), 4.37 (m, 1), 6.76 (dd,1, J=8.3, 21), 6.96 (d,1, J=21), 7.29 (d,1, J=8), 7.5 (d,1, J=8), 7.65 (t, 1, J=7.8), 7.83 (d,1, J=7.5). Analysis for C29H31Cl13N4O2 ·2.5 H2O·1.0 HCl: Calculated: C, 53.14; H, 5.69, N, 8.55; Found: C, 53.13; H, 5.67; N, 9.51.

reactant | 3-(3,4-Dichlorophenyl)-3-(4-chloro-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.695 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=C(C=CC=C12)Cl)=O)C | C18H14Cl3NO2
reactant | 4-(2-oxoperhydropyrimidine-1-yl)piperidine | 0.31 g | O=C1N(CCCN1)C1CCNCC1 | C9H17N3O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-7-chloro-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.220 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)N1C(NCCC1)=O)C1N(C(C2=C(C=CC=C12)Cl)=O)C | InChI=1S/C27H31Cl3N4O2.ClH/c1-32-25(20-4-2-5-22(29)24(20)26(32)35)19(17-6-7-21(28)23(30)16-17)10-15-33-13-8-18(9-14-33)34-12-3-11-31-27(34)36;/h2,4-7,16,18-19,25H,3,8-15H2,1H3,(H,31,36);1H
